US07105517B2
A solution of N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3-iodo-phenyl)-amine (300 mg, 0.64 mmol) and 3,4-dimethoxyphenylboronic acid (122 mg, 0.66 mmol) in dimethoxyethane (8 ml) and aqueous potassium carbonate (13 ml) are stirred in the presence of tetrakis triphenylphosphine palladium (15 mg) under a nitrogen atmosphere at reflux for 1 hour. After an aqueous work-up the residue is purified by chromatography (eluent: 2:1 mixture of ethyl acetate/hexane) to give the N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3′,4′-dimethoxy-biphenyl-3-yl)-amine, m.p. 236–237° C.

reactant | N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3-iodo-phenyl)-amine | 0.64 mmol, 300 mg | NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC(=CC=C1)I | C19H14IN5S
reactant | 3,4-dimethoxyphenylboronic acid | 0.66 mmol, 122 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
solvent | dimethoxyethane | 8 ml | C(OC)COC | C4H10O2
solvent | potassium carbonate | 13 ml | C([O-])([O-])=O.[K+].[K+]
product | N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3′,4′-dimethoxy-biphenyl-3-yl)-amine | NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C1=CC(=C(C=C1)OC)OC | C27H23N5O2S
